US06239151B1
A mixture of 0.325 g of (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl)-4-methyl-2′-(2(S)-methylbutyl)-2′-(p-toluenesulphonyl)valerohydrazide and 0.135 g of magnesium powder was placed in a sonic bath for 1.5 hours. The methanol was evaporated and the residue was partitioned between diethyl ether and potassium hydrogen sulphate solution. The ethereal layer was washed in sequence with potassium hydrogen sulphate solution, 5% sodium hydrogen carbonate solution, water and saturated sodium chloride solution, dried over anhydrous magnesium sulphate and evaporated. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (5:1) for the elution. There was obtained 0.146 g of (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2(S)-methylbutyl)valerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl)-4-methyl-2′-(2(S)-methylbutyl)-2′-(p-toluenesulphonyl)valerohydrazide | 0.325 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C1=CC=C(C=C1)C)C[C@H](CC)C)CC(C)C | C33H48N2O5S
reactant | magnesium | 0.135 g | [Mg] | Mg
product | (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2(S)-methylbutyl)valerohydrazide | 0.146 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC[C@H](CC)C)CC(C)C | C26H42N2O3
